US07064124B2
N-[4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoyl]piperidine
Piperidine (56 mg, 0.6576 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (169 mg, 0.8815 mmol) were added to a methylene chloride solution (20 ml) of 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid (173 mg, 0.3827 mmol) and the resulting solution was stirred at room temperature for 8 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by flash column chromatography (hexand:ethyl acetate=2:1) to obtain the titled compound (129 mg, 0.2485 mmol, 65%).

reactant | Piperidine | 0.6576 mmol, 56 mg | N1CCCCC1 | C5H11N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.8815 mmol, 169 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid | 0.3827 mmol, 173 mg | COC=1C(=C(CC2=CC(=C(C(=O)O)C=C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C26H28O7
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoyl]piperidine | 0.2485 mmol, 129 mg, 65% | COC=1C(=C(CC2=CC(=C(C(=O)N3CCCCC3)C=C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C31H37NO6
